US06645968B2
N-[1-(1H-1,2,3-benzotriazol-1-yl)-2,2,3,3,3-pentafluoropropyl]-4-chlorobenzamide
4-Chlorobenzamide, pentafluoropropanal, benzotriazole, and p-toluenesulfonic acid were processed as described in Example 53A to provide the desired product.

reactant | 4-Chlorobenzamide | ClC1=CC=C(C(=O)N)C=C1 | C7H6ClNO
reactant | pentafluoropropanal | FC(C(C=O)(F)F)(F)F | C3HF5O
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-[1-(1H-1,2,3-benzotriazol-1-yl)-2,2,3,3,3-pentafluoropropyl]-4-chlorobenzamide | N1(N=NC2=C1C=CC=C2)C(C(C(F)(F)F)(F)F)NC(C2=CC=C(C=C2)Cl)=O | C16H10ClF5N4O
